US06982348B2
To a suspension (50 ml) of zinc chloride (3.41 g, 25 mmol) in ether was added sodium borohydride (1.89 g, 50 mmol) at room temperature, and the mixture was stirred as it was for 2 hrs. Insoluble material was filtered off. To the filtrate was added a solution of ethyl 3-oxo-3-(2-phenyl-1,3-thiazol-4-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionate (6.01 g, 12.5 mmol) in ether (40 ml) under ice-cooling, and the mixture was stirred as it was for 1 hr. The reaction was quenched with 1N hydrochloric acid. The mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1, 4:1) to give ethyl 3-hydroxy-3-(2-phenyl-1,3-thiazol-4-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionate (4.61 g, 76%) as a colorless transparent oil.

reactant | sodium borohydride | 50 mmol, 1.89 g | [BH4-].[Na+]
reactant | ethyl 3-oxo-3-(2-phenyl-1,3-thiazol-4-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionate | 12.5 mmol, 6.01 g | O=C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C=1N=C(SC1)C1=CC=CC=C1 | C23H19F4NO4S
solvent | ether | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
catalyst | zinc chloride | 25 mmol, 50 ml, 3.41 g | [Cl-].[Zn+2].[Cl-]
product | ethyl 3-hydroxy-3-(2-phenyl-1,3-thiazol-4-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionate | 4.61 g, 76% | OC(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C=1N=C(SC1)C1=CC=CC=C1 | C23H21F4NO4S
